US04551460
A solution of 1.30 g of cyanomethyl 2-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylate and 1.20 g of (1H-imidazol-1-yl)butanamine in 15 ml of dimethylformamide was stirred at a bath temperature of 35° C. for 18 hours. The reaction mixture was diluted with water and the crude precipitate was recrystallized from acetonitrile to give 1.41 g (85%) of N-[4-(1H-imidazol-1-yl)butyl]-2-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxamide, mp 165°-167° C.

reactant | cyanomethyl 2-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxylate | 1.30 g | CC(C)C=1C=C2C(N3C(=NC2=CC1)C=CC(=C3)C(=O)OCC#N)=O | C18H15N3O3
reactant | (1H-imidazol-1-yl)butanamine | 1.20 g | N1(C=NC=C1)C(CCC)N | C7H13N3
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[4-(1H-imidazol-1-yl)butyl]-2-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-8-carboxamide | 1.41 g, 85% | N1(C=NC=C1)CCCCNC(=O)C=1C=CC2=NC3=CC=C(C=C3C(N2C1)=O)C(C)C | C23H25N5O2
